US09382241B2
N-[3-(4-aminoquinazolin-6-yl)-5-fluoro-phenyl]-2-morpholino-acetamide
To 2-morpholinoacetic acid (0.175 mmol, 25 mg) in a 4 mL vial was added HATU (0.175 mmol, 69 mg), 6-(3-amino-5-fluoro-phenyl)quinazolin-4-amine, 0.15 mmol, 38 mg), and TEA (0.30 mmol, 0.042 mL). The vial was capped and shaken overnight at room temperature. The reaction was then diluted with 3 mL DCM, then washed with 2 mL water. Organic phase was concentrated, and then purified by reverse phase HPLC yielding 20 mg of desired product. 1H NMR (400 MHz, DMSO) δ 10.07-9.93 (s, 1H), 8.60-8.52 (d, J=1.8 Hz, 1H), 8.42-8.39 (s, 1H), 8.08-8.03 (dd, J=8.7, 1.9 Hz, 1H), 7.93-7.66 (m, 4H), 7.44-7.35 (d, J=10.0 Hz, 1H), 3.71-3.63 (m, 4H), 3.20-3.17 (s, 2H), 2.56-2.51 (m, 4H). LCMS M/Z (M+H) 382.

reactant | 2-morpholinoacetic acid | 0.175 mmol, 25 mg | O1CCN(CC1)CC(=O)O | C6H11NO3
reactant | HATU | 0.175 mmol, 69 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(3-amino-5-fluoro-phenyl)quinazolin-4-amine | NC=1C=C(C=C(C1)F)C=1C=C2C(=NC=NC2=CC1)N | C14H11FN4
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-aminoquinazolin-6-yl)-5-fluoro-phenyl]-2-morpholino-acetamide | 20 mg | NC1=NC=NC2=CC=C(C=C12)C=1C=C(C=C(C1)F)NC(CN1CCOCC1)=O | C20H20FN5O2
